US06635655B1
6-(3-Bromomethyl-phenyl)-hexanoic Acid Methyl Ester
To a solution of 6-(3-hydroxymethyl-phenyl)-hexanoic acid methyl ester (587 mg, 2.48 mmol) in THF (10 mL) is added triphenylphosphine (716 mg, 2.73 mmol), stirred until homogeneous then cooled to 0° C. NBS (486 mg, 2.73 mmol) is added portionwise and the reaction mixture stirred for 45 min. The mixture is concentrated and the residue is purified by flash chromatography (eluting with 10% ethyl acetate/hexanes) to give 682 mg of title compound. 1H NMR (300 MHz, CDCl3) δ 7.23 (m, 3H), 7.10 (m, 1H), 4.48 (s, 2H), 3.66 (s, 3H), 2.60 (t, 2H), 2.31 (t, 2H), 1.63 (m, 4H), 1.37 (m, 2H).

reactant | 6-(3-hydroxymethyl-phenyl)-hexanoic acid methyl ester | 2.48 mmol, 587 mg | COC(CCCCCC1=CC(=CC=C1)CO)=O | C14H20O3
reactant | triphenylphosphine | 2.73 mmol, 716 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NBS | 2.73 mmol, 486 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(3-Bromomethyl-phenyl)-hexanoic Acid Methyl Ester | 682 mg | COC(CCCCCC1=CC(=CC=C1)CBr)=O | C14H19BrO2
